US05607956
5-Methoxymethyl-4-methylthiazole
4-Methyl-5-thiazolecarbaldehyde (J. Amer. Chem. Soc., 1982, 104, 4934-4943) was reduced using aluminium isopropoxide in 2-propanol. The resulting alcohol was treated with sodium hydride in dimethoxyethane and iodomethane was added. Distillation gave the title compound.

reactant | 4-Methyl-5-thiazolecarbaldehyde | CC=1N=CSC1C=O | C5H5NOS
reactant | aluminium isopropoxide | CC([O-])C.[Al+3].CC([O-])C.CC([O-])C
reactant | sodium hydride | [H-].[Na+]
solvent | 2-propanol | CC(C)O | C3H8O
solvent | dimethoxyethane | C(OC)COC | C4H10O2
solvent | iodomethane | IC | CH3I
product | 5-Methoxymethyl-4-methylthiazole | COCC1=C(N=CS1)C | C6H9NOS
